US07704997B1
2-[(1-methylpiperidin-3-yl)oxy]benzonitrile
2-Fluoro-benzonitrile was reacted with 1-methyl-piperidin-3-ol according to the method of Example 85A to provide the title compound. MS (DCI/NH3) m/z 217 (M+1)+.

reactant | 2-Fluoro-benzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 1-methyl-piperidin-3-ol | CN1CC(CCC1)O | C6H13NO
product | 2-[(1-methylpiperidin-3-yl)oxy]benzonitrile | CN1CC(CCC1)OC1=C(C#N)C=CC=C1 | C13H16N2O
